### PR TITLE
[Merged by Bors] - feat (Algebra/Lie/Extension): construction of Lie algebra extensions from 2-cocycles

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR gives a construction of a Lie algebra extension from a 2-cocycle. The classification of extensions in terms of degree 2 cohomology is postponed to later PRs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Extension.lean [hunk 1]
```diff
@@ -39,6 +52,14 @@ class IsExtension (i : N →ₗ⁅R⁆ L) (p : L →ₗ⁅R⁆ M) : Prop where
   range_eq_top : p.range = ⊤
   exact : i.range = p.ker
 
+lemma range_eq_ker_iff (i : N →ₗ⁅R⁆ L) (p : L →ₗ⁅R⁆ M) : i.range = p.ker ↔ Function.Exact i p := by
+  constructor
+  · intro h x
+    rw [← LieHom.coe_range, h]
+    rfl
+  · intro h
+    exact (LieSubalgebra.ext (LieIdeal.toLieSubalgebra R L p.ker) i.range h).symm
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
lemma _root_.LieHom.range_eq_ker_iff (i : N →ₗ⁅R⁆ L) (p : L →ₗ⁅R⁆ M) :
    i.range = p.ker ↔ Function.Exact i p :=
  ⟨fun h x ↦ by simp [← LieHom.coe_range, h], fun h ↦ (p.ker.toLieSubalgebra.ext i.range h).symm⟩
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 2]
```diff
@@ -55,16 +76,166 @@ structure Extension where
...
     IsExtension f.ker.incl f where
   ker_eq_bot := LieIdeal.ker_incl f.ker
   range_eq_top := (LieHom.range_eq_top f).mpr hf
   exact := LieIdeal.incl_range f.ker
 
+/-- The bundled `LieAlgebra.Extension` corresponding to `LieAlgebra.IsExtension` -/
+@[simps] def Extension.ofIsExtension {i : N →ₗ⁅R⁆ L} {p : L →ₗ⁅R⁆ M}
+   (h : LieAlgebra.IsExtension i p) :
+    Extension R N M :=
+  ⟨L, _, _, i, p, h⟩
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: What is the motivation for renaming from `LieAlgebra.IsExtension.extension` to `LieAlgebra.Extension.ofIsExtension`?

Doesn't the old name play better with dot notation?

File: Mathlib/Algebra/Lie/Extension.lean [hunk 3]
```diff
@@ -55,16 +76,166 @@ structure Extension where
...
+
+end IsExtension
+
+namespace Extension
+
+variable [CommRing R] [LieRing M] [LieAlgebra R M]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: Just for consistency with elsewhere, could we let `L` carry the Lie algebra structure:
```suggestion
variable [CommRing R] [LieRing L] [LieAlgebra R L]
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 4]
```diff
@@ -55,16 +76,166 @@ structure Extension where
...
+/-- A one-field structure giving a type synonym for a direct product. We use this to describe an
+alternative Lie algebra structure on the product, where the bracket is shifted by a 2-cocycle. -/
+structure ofTwoCocycleAlg {R M N} [CommRing R] [LieRing M] [LieAlgebra R M] [AddCommGroup N]
+    [Module R N] [LieRingModule M N] [LieModule R M N]
+    (c : twoCocycle R M N) where
+  /-- The underlying type. -/
+  carrier : M × N
+
+variable [AddCommGroup N] [Module R N] [LieRingModule M N] [LieModule R M N]
+(c : twoCocycle R M N)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: What do you think about just `ofTwoCocycle` instead of `ofTwoCocycleAlg`? Also, as above, I think for consistency it would be less surprising to name the types `L` and `M` instead of `M` and `N`.
```suggestion
structure ofTwoCocycle {R L M} [CommRing R] [LieRing L] [LieAlgebra R L] [AddCommGroup M]
    [Module R M] [LieRingModule L M] [LieModule R L M]
    (c : twoCocycle R L M) where
  /-- The underlying type. -/
  carrier : L × M

variable [AddCommGroup M] [Module R M] [LieRingModule L M] [LieModule R L M]
  (c : twoCocycle R L M)
```

**Review by ocfnash — COMMENTED** [review]
Thanks!

Just a few quick comments for now.

File: Mathlib/Algebra/Lie/Extension.lean (hunk 2 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Lie/Extension.lean]: I thought it should be in `Extension` since it was an extension, but that reason doesn't seem to be particularly compelling. I'll put it back.

File: Mathlib/Algebra/Lie/Extension.lean (hunk 4 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Lie/Extension.lean]: That sounds good. I put this in the `LieAlgebra` namespace to avoid a collision with the extension, but I'm not sure if the `ofProd` API should get a different namespace.

File: Mathlib/Algebra/Lie/Extension.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Extension.lean]: I agree either name makes sense but I tend to think the convenience of dot notation wins the day.

File: Mathlib/Algebra/Lie/Extension.lean [hunk 5]
```diff
@@ -67,4 +84,151 @@ theorem isExtension_of_surjective (f : L →ₗ⁅R⁆ M) (hf : Function.Surject
...
+/-- A one-field structure giving a type synonym for a direct product. We use this to describe an
+alternative Lie algebra structure on the product, where the bracket is shifted by a 2-cocycle. -/
+structure ofTwoCocycle {R L M} [CommRing R] [LieRing L] [LieAlgebra R L] [AddCommGroup M]
+    [Module R M] [LieRingModule L M] [LieModule R L M]
+    (c : twoCocycle R L M) where
+  /-- The underlying type. -/
+  carrier : L × M
+
+variable [AddCommGroup M] [Module R M] [LieRingModule L M] [LieModule R L M]
+(c : twoCocycle R L M)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
  (c : twoCocycle R L M)
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 6]
```diff
@@ -67,4 +84,151 @@ theorem isExtension_of_surjective (f : L →ₗ⁅R⁆ M) (hf : Function.Surject
...
+  (ofProd c).symm (r • x) = r • (ofProd c).symm x := rfl
+
+@[simp] lemma of_nsmul (n : ℕ) (x : L × M) : (ofProd c) (n • x) = n • (ofProd c) x := rfl
+@[simp] lemma of_symm_nsmul (n : ℕ) (x : ofTwoCocycle c) :
+  (ofProd c).symm (n • x) = n • (ofProd c).symm x := rfl
+
+instance : LieRing (ofTwoCocycle c) where
+  bracket x y := ofProd c (⁅((ofProd c).symm x).1, ((ofProd c).symm y).1⁆,
+    c.1.val ((ofProd c).symm x).1 ((ofProd c).symm y).1 +
+    ⁅((ofProd c).symm x).1, ((ofProd c).symm y).2⁆ - ⁅((ofProd c).symm y).1, ((ofProd c).symm x).2⁆)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: This will produce the same term but I think it's a bit easier to read:
```suggestion
  bracket x y :=
    letI x₁ := ((ofProd c).symm x).1; letI x₂ := ((ofProd c).symm x).2
    letI y₁ := ((ofProd c).symm y).1; letI y₂ := ((ofProd c).symm y).2
    ofProd c (⁅x₁, y₁⁆, (c : L →ₗ[R] L →ₗ[R] M) x₁ y₁ + ⁅x₁, y₂⁆ - ⁅y₁, x₂⁆)
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 7]
```diff
@@ -67,4 +84,151 @@ theorem isExtension_of_surjective (f : L →ₗ⁅R⁆ M) (hf : Function.Surject
...
+      ← twoCochain_skew _ _ ⁅((ofProd c).symm y).1, ((ofProd c).symm z).1⁆, eq_sub_iff_add_eq,
+      zero_add, neg_eq_iff_eq_neg] at this
+    rw [this]
+    abel
+
+lemma bracket_ofTwoCocycle {c : twoCocycle R L M} (x y : ofTwoCocycle c) :
+    ⁅x, y⁆ = ofProd c (⁅((ofProd c).symm x).1, ((ofProd c).symm y).1⁆,
+      c.1.val ((ofProd c).symm x).1 ((ofProd c).symm y).1 +
+      ⁅((ofProd c).symm x).1, ((ofProd c).symm y).2⁆ -
+      ⁅((ofProd c).symm y).1, ((ofProd c).symm x).2⁆) :=
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: Similarly here:
```suggestion
    letI x₁ := ((ofProd c).symm x).1; letI x₂ := ((ofProd c).symm x).2
    letI y₁ := ((ofProd c).symm y).1; letI y₂ := ((ofProd c).symm y).2
    ⁅x, y⁆ = ofProd c (⁅x₁, y₁⁆, (c : L →ₗ[R] L →ₗ[R] M) x₁ y₁ + ⁅x₁, y₂⁆ - ⁅y₁, x₂⁆) :=
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 8]
```diff
@@ -67,4 +84,151 @@ theorem isExtension_of_surjective (f : L →ₗ⁅R⁆ M) (hf : Function.Surject
...
+end Algebra
+
+namespace Extension
+
+open LieModule.Cohomology
+
+variable [CommRing R] [LieRing L] [LieAlgebra R L] [LieRing M] [LieAlgebra R M] [IsLieAbelian M]
+  [LieRingModule L M] [LieModule R L M] (c : twoCocycle R L M)
+
+/-- An extension of Lie algebras defined by a 2-cocycle. -/
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: I think no harm being really explicit:
```suggestion
/-- The central extension of Lie algebras defined by a 2-cocycle. -/
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/Lie/Extension.lean (hunk 8 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Lie/Extension.lean]: It's not central without `[LieModule.IsTrivial L M]` (central extension PR coming soon)

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Extension.lean]: Oh sorry, of course!

Comment (ScottCarnahan) [reply Mathlib/Algebra/Lie/Extension.lean]: ...but I see your point about the definite article.
